2129-01-09 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2129-1-8**] 11:19 AM
 TRANSTHORACIC ECHO - At [**2129-1-8**] 02:13 PM
   Cards eval: plan for cath monday, unclear if ACS
   Echo new focal wall  motion abnormalities
   ENT scoped: Normal upper airway
   Transfuesed 3 U PRBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-1-8**] 08:33 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2129-1-8**] 11:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-9**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.1
C (97
   HR: 92 (68 - 107) bpm
   BP: 147/63(83) {77/25(45) - 185/130(138)} mmHg
   RR: 23 (13 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,045 mL
                                                                    428 mL
   PO:
           TF:
   IVF:
                                                                    295 mL
                                                                     53 mL
   Blood products:
                                                                    750 mL
                                                                    375 mL
   Total out:
                                                                  1,130 mL
                                                                    400 mL
   Urine:
                                                                  1,130 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -85 mL
                                                                     28 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.42/31/63/21/-2
   Physical Examination
   GENERAL:  Gunts,  Alert, tracks people in room, cooperative with exam
   HEENT:  O/P clear, dry mm
   CARDIAC:  RRR, 2/6 systolic murmur at LUSB
   LUNG:  transmitted upper airway sounds.  clear lungs.
   ABDOMEN:  soft, non-tender, non-distended
   EXT: WWP
   DERM:  Bruise on right temple.
   Labs / Radiology
   340 K/uL
   10.9 g/dL
   174 mg/dL
   2.6 mg/dL
   21 mEq/L
   4.7 mEq/L
   60 mg/dL
   106 mEq/L
   142 mEq/L
   33.7 %
   12.8 K/uL
        [image002.jpg]
                            [**2129-1-8**]  11:50 AM
                            [**2129-1-8**]  11:54 AM
                            [**2129-1-9**]  12:02 AM
                            [**2129-1-9**]  05:12 AM
   WBC
   8.3
   12.8
   Hct
   22.4
   27.7
   33.7
   Plt
   406
   340
   Cr
   2.6
   TropT
   0.95
   TCO2
   21
   Glucose
   174
   Other labs: PT / PTT / INR:12.5/97.6/1.1, CK / CKMB /
   Troponin-T:676/33/0.95, Lactic Acid:2.4 mmol/L, Mg++:2.6 mg/dL, PO4:4.0
   mg/dL
   Fluid analysis / Other labs: Iron: 9
   calTIBC: 523
   Ferritn: 15
   TRF: 402
   Imaging: ECHO: The left atrium is moderately dilated. The right atrium
   is moderately dilated. Left ventricular wall thicknesses and cavity
   size are normal. There is mild to moderate regional left ventricular
   systolic dysfunction with akinesis of the mid- and distal septal
   segments, as well as of the apex and distal inferior wall. The
   remaining segments contract normally (LVEF = 40%), most c/w multivessel
   CAD. Right ventricular chamber size and free wall motion are normal.
   The aortic valve leaflets are moderately thickened. There is moderate
   aortic valve stenosis (valve area 1.1 cm2). Mild (1+) aortic
   regurgitation is seen. There is mild functional mitral stenosis (mean
   gradient 5 mmHg) due to mitral annular calcification. Moderate (2+)
   mitral regurgitation is seen. [Due to acoustic shadowing, the severity
   of mitral regurgitation may be significantly UNDERestimated.] The
   tricuspid valve leaflets are mildly thickened. Moderate [2+] tricuspid
   regurgitation is seen. There is moderate pulmonary artery systolic
   hypertension. There is no pericardial effusion.
   IMPRESSION: Mild to moderate regional left ventricular systolic
   dysfunction, c/w CAD. Moderate aortic stenosis. Mild aortic
   regurgitation. Moderate mitral regurgitation. Moderate tricuspid
   regurgitation. Moderate pulmonary hypertension.
   Compared with the report of the prior study (images unavailable for
   review) of [**2124-1-26**], new wall motion abnormalities are seen. Severity
   of all valvular abnormalities has progressed. Estimated pulmonary
   pressure is higher.
   Microbiology: Flu swab negative
   Blood, urine cultures negative
   Assessment and Plan
 ASTHMA
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   85 year-old man with a history of asthma, CVA, presenting with dyspnea,
   falls, and EKG changes.
   # HYPOXEMIA: Patient initially on NRB and low air movement, consistent
   with asthma exacerbation, but was quickly weaned down.  He improved
   with nebs and steroids.  CXR does not show sufficient infiltrate or
   effusion to explain hypoxia.  ENT found normal upper airway.
   - Albuterol/Ipratroprium, hold on steroids for now
   - Treat ICU CAP with Levo/CTX
   - D/C Vanc and Tamiflu today
   - will need chest CT given lung nodule, eval for pneumonia, and for
   tracheal evaluation
   # CARDIAC ISCHEMIA:  Patient with multiple CV risk factors presented
   with dyspnea, focal EKG changes, cardiac enzyme elevations, and new
   focal wall motion abnormalities.  Echo changes may be old however, and
   he could have demand ischemia in setting of anemia
   - ASA, plavix, statin, heparin gtt
   - beta-blocker with goal HR 60-80
   - Hct goal > 30
   # MICROCYTIC ANEMIA:  Patient presented with possibly symptomatic
   microcytic anemia with profound iron deficiency.  Hct increased
   appropriately with 3 U PRBC.
   - transfuse to Hct > 30 given ACS
   - colonoscopy when stable
   - PO iron supplements
   # ACUTE ON CHRONIC RENAL FAILURE:  Likely pre-renal over CKD.  His Cr
   was 2.1 in [**Month (only) 280**].  FeNa 0.6, and Osm 438.
   - transfuse for intravascular volume
   # FALLS: Increasing frequency may relate to anemia.
   - PT consult when stable.
   ICU Care
   Nutrition: NPO
   Glycemic Control: follow sugars
   Lines:
   20 Gauge - [**2129-1-8**] 11:17 AM
   22 Gauge - [**2129-1-8**] 03:53 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: home PPI
   Communication:  [**First Name8 (NamePattern2) 8**] [**Known lastname **] ([**Telephone/Fax (1) 10499**] is HCP but lives in [**Name (NI) 10500**].  Patient lives with son, who doesn't speak much english.
   Code status: Full code
   Disposition:  C/O to [**Hospital1 1276**]

2129-01-09 08:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident and Fellow for key portions of the services provided.  I agree
   with his / her note above, including assessment and plan.
   HPI:
   85 y o man with asthma, HTN, h/o CVA, admitted with respiratory
   distress, ischemic ECG changes and positive cardiac markers, ?ACS vs.
   demand ischemia
   24 Hour Events:
   Cardiology consulted: TTE with new WMAs, likely ACS, plan on
   heparin/asa/plavix and possible cath on Monday
   Seen by ENT for ?upper airway wheeze, scoped at bedside, upper airway
   normal above the cords and including normal motion of TVCs
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-1-8**] 08:33 PM
   Ceftriaxone - [**2129-1-9**] 07:30 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2129-1-8**] 11:55 AM
   Other medications:
   Simvastatin
   ASA
   Plavix
   Levofloxacin
   Tamiflu
   Gabapentin
   Tricor
   Metoprolol
   Lansoprazole
   Altuberol
   Atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-9**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 73 (68 - 107) bpm
   BP: 132/97(105) {77/25(45) - 185/130(138)} mmHg
   RR: 22 (13 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,045 mL
                                                                    485 mL
   PO:
           TF:
   IVF:
                                                                    295 mL
                                                                    110 mL
   Blood products:
                                                                    750 mL
                                                                    375 mL
   Total out:
                                                                  1,130 mL
                                                                    500 mL
   Urine:
                                                                  1,130 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -85 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93% on 5L NC
   ABG: 7.42/31/63/21/-2
   Physical Examination
   Gen: awake, NAD
   Chest: scattered posterior rales, diffuse holo-expiratory wheezes,
   heard more prominently proximally
   CV: RRR, no murmurs audible, but limited by loud wheezes
   Abd: soft, NT/ND + BS
   Extr: warm, no edema
   Labs / Radiology
   10.9 g/dL
   340 K/uL
   174 mg/dL
   2.6 mg/dL
   21 mEq/L
   4.7 mEq/L
   60 mg/dL
   106 mEq/L
   142 mEq/L
   33.7 %
   12.8 K/uL
        [image002.jpg]
                            [**2129-1-8**]  11:50 AM
                            [**2129-1-8**]  11:54 AM
                            [**2129-1-9**]  12:02 AM
                            [**2129-1-9**]  05:12 AM
   WBC
   8.3
   12.8
   Hct
   22.4
   27.7
   33.7
   Plt
   406
   340
   Cr
   2.6
   TropT
   0.95
   TCO2
   21
   Glucose
   174
   Other labs: PT / PTT / INR:12.5/97.6/1.1, CK / CKMB /
   Troponin-T:676/33/0.95, Lactic Acid:2.4 mmol/L, Mg++:2.6 mg/dL, PO4:4.0
   mg/dL
   Micro: flu swab neg, blood ngtd, urine cx pending
   CXR: worsening bilateral multifocal opacities, worst in the RU lung
   zone, also B lower lobes
   TTE [**2129-1-8**]:
   The left atrium is moderately dilated. The right atrium is moderately
   dilated. Left ventricular wall thicknesses and cavity size are normal.
   There is mild to moderate regional left ventricular systolic
   dysfunction with akinesis of the mid- and distal septal segments, as
   well as of the apex and distal inferior wall. The remaining segments
   contract normally (LVEF = 40%), most c/w multivessel CAD. Right
   ventricular chamber size and free wall motion are normal. The aortic
   valve leaflets are moderately thickened. There is moderate aortic valve
   stenosis (valve area 1.1 cm2). Mild (1+) aortic regurgitation is seen.
   There is mild functional mitral stenosis (mean gradient 5 mmHg) due to
   mitral annular calcification. Moderate (2+) mitral regurgitation is
   seen. [Due to acoustic shadowing, the severity of mitral regurgitation
   may be significantly UNDERestimated.] The tricuspid valve leaflets are
   mildly thickened. Moderate [2+] tricuspid regurgitation is seen. There
   is moderate pulmonary artery systolic hypertension. There is no
   pericardial effusion.
   IMPRESSION: Mild to moderate regional left ventricular systolic
   dysfunction, c/w CAD. Moderate aortic stenosis. Mild aortic
   regurgitation. Moderate mitral regurgitation. Moderate tricuspid
   regurgitation. Moderate pulmonary hypertension.
   Assessment and Plan
   85 y o man with asthma, HTN, h/o CVA, admitted with respiratory
   distress, ischemic ECG changes and positive cardiac markers, ?ACS vs.
   demand ischemia
   1. Ischemia: ACS vs. demand, no clear source of demand, CXR with
   ?multifocal PNA, now worsening appearance, anemic on admission but Hct
   improved with transfusions.  Troponin slightly up this morning, CK-MB
   stable.  Unable to assess whether or not he is having CP [**3-1**] aphasia,
   but has not been c/o it at home.
   - Continue asa/plavix/heparin
   - Daily ECGs
   - F/up cardiology recs
   2.  Respiratory distress:   CXR suggestive of atypical pna, ?influenza
   despite neg swab. H/o asthma, exp wheezes that are more prominent
   centrally, scope by ENT w/out an upper airway source. ?TBM.  O2 needs
   coming down.
   - D/c vanco
   - Continue CTX + levo
   - Continue tamiflu x 5 days, cont flu precautions
   - F/up blood cultures
   - check urine legionella ag, mycoplasma serologies
   - continue nebs
   - ?IP evaluation for ?TBM once acute issues resolved
   3. Anemia: Hct 22 on admisison, improved to 33 p 2 units.  Likely
   chronic GIB given microcytosis.
   - continue to keep Hct > 30 given ACS vs. demand ischemia
   - if Hct stable here, will need outpt evaluation for anemia/GIB with
   scopes
   4. Renal failure: appears acute on chronic per records from PCP.
   [**Name Initial (NameIs) 10511**]. Cr trending down, recent baseline 2.1
   -  Trend Cr, lactate
   - f/up urine culture
   - check urine lytes
   ICU Care
   Nutrition: SLP eval
   Glycemic Control:  start ISS
   Lines:
   20 Gauge - [**2129-1-8**] 11:17 AM
   22 Gauge - [**2129-1-8**] 05:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:  PPI
   Communication:  Comments:  will update daugther (HCP)
   [**Name (NI) 156**] status: Full code
   Disposition: ICU
   Pt is critically ill.
   Total time spent: 31 min CCT

2129-01-10 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Cards said likely medical management
   FENa 1.4%
   Started on sliding scale insulin
   CE's peaked w/ CK 1143 and trop 1.65
   Started on steroids for wheezing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-1-8**] 08:33 PM
   Ceftriaxone - [**2129-1-9**] 07:30 AM
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-10**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 72 (62 - 89) bpm
   BP: 128/37(60) {100/32(57) - 157/75(114)} mmHg
   RR: 17 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    699 mL
                                                                    102 mL
   PO:
                                                                    120 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    204 mL
                                                                     52 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,449 mL
                                                                    350 mL
   Urine:
                                                                  1,449 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   297 K/uL
   9.8 g/dL
   146 mg/dL
   2.1 mg/dL
   23 mEq/L
   4.6 mEq/L
   44 mg/dL
   112 mEq/L
   146 mEq/L
   31.4 %
   11.0 K/uL
        [image002.jpg]
                            [**2129-1-8**]  11:50 AM
                            [**2129-1-8**]  11:54 AM
                            [**2129-1-9**]  12:02 AM
                            [**2129-1-9**]  05:12 AM
                            [**2129-1-9**]  06:46 AM
                            [**2129-1-9**]  02:30 PM
                            [**2129-1-10**]  05:55 AM
   WBC
   8.3
   12.8
   11.0
   Hct
   22.4
   27.7
   33.7
   31.4
   Plt
   [**Telephone/Fax (3) 10519**]
   Cr
   2.6
   2.3
   2.1
   TropT
   0.95
   1.65
   1.67
   1.48
   TCO2
   21
   Glucose
   174
   140
   146
   Other labs: PT / PTT / INR:13.4/61.0/1.1, CK / CKMB /
   Troponin-T:456/11/1.48, Differential-Neuts:84.0 %, Lymph:9.0 %,
   Mono:6.7 %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, Ca++:8.7 mg/dL, Mg++:2.3
   mg/dL, PO4:3.9 mg/dL
   A/P
   85 year-old man with a history of asthma, CVA, presenting with dyspnea,
   falls, and EKG changes.
   # HYPOXEMIA: Patient initially on NRB and low air movement, consistent
   with asthma exacerbation, but was quickly weaned down.  He improved
   with nebs and steroids.  CXR does not show sufficient infiltrate or
   effusion to explain hypoxia.  ENT found normal upper airway.
   - Albuterol/Ipratroprium, hold on steroids for now
   - Treat ICU CAP with Levo/CTX
   - D/C Vanc
   - Tamiflu x 5days empericly
   - will need chest CT given lung nodule and for tracheal evaluation at
   some point
   # CARDIAC ISCHEMIA:  Patient with multiple CV risk factors presented
   with dyspnea, focal EKG changes, cardiac enzyme elevations, and new
   focal wall motion abnormalities.  Echo changes may be old however, and
   he could have demand ischemia in setting of anemia
   - ASA, plavix, statin, heparin gtt x 48 hr
   - beta-blocker with goal HR 60-80
   - Hct goal > 30
   # MICROCYTIC ANEMIA:  Patient presented with possibly symptomatic
   microcytic anemia with profound iron deficiency.  Hct increased
   appropriately with 3 U PRBC.
   - transfuse to Hct > 30 given ACS
   - colonoscopy when stable
   - PO iron supplements
   # ACUTE ON CHRONIC RENAL FAILURE:  Likely pre-renal over CKD.  His Cr
   was 2.1 in [**Month (only) 280**].  FeNa 0.6, and Osm 438.
   - urine lytes
   # FALLS: Increasing frequency may relate to anemia.
   - PT consult when stable.
   ICU Care
   Nutrition: NPO
   Glycemic Control: ISS
   Lines:
   20 Gauge - [**2129-1-8**] 11:17 AM
   22 Gauge - [**2129-1-8**] 03:53 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: home PPI
   Communication:  [**First Name8 (NamePattern2) 8**] [**Known lastname **] ([**Telephone/Fax (1) 10499**] is HCP but lives in [**Name (NI) 10500**].  Patient lives with son, who doesn't speak much english.
   Code status: Full code
   Disposition:  ICU pending clinical stability

2129-01-10 11:13:00 Physician Attending Progress Note
Chief Complaint: Somnolence, respiratory distress
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   85yoM with h/o CVA, presented with dyspnea and increasing falls.  On
   day of admission he had several falls and became somnolent.  Brought to
   ED, noted to be in respiratory distress and placed on NRB.  Given PRBC
   and ASA.  CXR with RUL PNA; treated with solumedrol, levofloxacin,
   flagyl.
   24 Hour Events:
   Admitted to ICU; evaluated by ENT for possible upper airway obstruction
   and felt to have normal upper airway anatomy.  He was continued on
   ceftriaxone and levofloxacin.  He received nebulizers because of
   bronchospasm, so was also started on prednisone.  Had improvement in
   oxygenation with nebulizers.  Overall improved from admission.
   CK/Troponin peaked yesterday morning. Elevation thought secondary to
   demand ischemia in setting of infection and respiratory distress.  Seen
   by cardiology, suggested heparin/plavix/ASA.  TTE with focal WMA.
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-1-8**] 08:33 PM
   Ceftriaxone - [**2129-1-10**] 09:59 AM
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Other medications:
   Simvastatin
   ASA
   Levofloxacin
   Oseltamivir
   Metoprolol
   Colace
   PPI
   Insulin sliding scale
   Prednisone 40mg
   Changes to medical and family history:
   CVA
   HTN
   Asthma
   CKD
   BPH
   h/o PVD
   No history of cardiac disease
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-10**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 87 (62 - 89) bpm
   BP: 103/89(93) {100/32(57) - 157/89(114)} mmHg
   RR: 14 (12 - 18) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    699 mL
                                                                    179 mL
   PO:
                                                                    120 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    204 mL
                                                                    129 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,449 mL
                                                                    650 mL
   Urine:
                                                                  1,449 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                   -471 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   Gen:  Attempts to answer questions, aphasic
   Chest:  crackles at right base/RUL
   CV:  RRR
   Abd: s/nt/nd
   Ext:  no edema
   Labs / Radiology
   9.8 g/dL
   297 K/uL
   146 mg/dL
   2.1 mg/dL
   23 mEq/L
   4.6 mEq/L
   44 mg/dL
   112 mEq/L
   146 mEq/L
   31.4 %
   11.0 K/uL
        [image002.jpg]
                            [**2129-1-8**]  11:50 AM
                            [**2129-1-8**]  11:54 AM
                            [**2129-1-9**]  12:02 AM
                            [**2129-1-9**]  05:12 AM
                            [**2129-1-9**]  06:46 AM
                            [**2129-1-9**]  02:30 PM
                            [**2129-1-10**]  05:55 AM
   WBC
   8.3
   12.8
   11.0
   Hct
   22.4
   27.7
   33.7
   31.4
   Plt
   [**Telephone/Fax (3) 10519**]
   Cr
   2.6
   2.3
   2.1
   TropT
   0.95
   1.65
   1.67
   1.48
   TCO2
   21
   Glucose
   174
   140
   146
   Other labs: PT / PTT / INR:13.4/61.0/1.1, CK / CKMB /
   Troponin-T:456/11/1.48, Differential-Neuts:84.0 %, Lymph:9.0 %,
   Mono:6.7 %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, Ca++:8.7 mg/dL, Mg++:2.3
   mg/dL, PO4:3.9 mg/dL
   Imaging: CXR [**1-9**]: RUL/RLL opacities; bilateral interstitial markings
   consistent with pulmonary edema.
   Microbiology: Influenza DFA negative
   Assessment and Plan
   85M with h/o CVA; here with hypoxemia in setting of RUL PNA;
   complicated by bronchospasm responsive to bronchodilators.
   1.       PNA:
   -  Continue antibiotics with ceftriaxone/levofloxacin for severe CAP
   - Await cultures
   - Given difficult history and a clinical picture that could be
   consistent with influenza (wheeze, CXR with bilateral infiltrates,
   multifocal PNA), would treat for 5days with oseltamivir.  If can obtain
   a lower respiratory sample, send for influenza DFA.
   2.       Asthma:
   - Bronchospasm in setting of infection; possible viral with pneumonitis
   versus bacterial infection.
   - continue prednisone 40mg; plan 5 days and if improved will
   discontinue
   - Bronchodilators
   3.       CV:  Suspected demand ischemia with increased troponin/CK;
   thought TTE with new WMA.  Cardiology following.
   - repeat EKG
   - Continue BB, ASA, plavix, heparin, statin; medical management; plan
   to discontinue heparin following discussion with cardiology
   - No plans for coronary angio at this time per cardiology.
   4.       Anemia: evidence of microcytic anemia with Fe deficiency
   - will need outpatient work-up
   5.       Renal:  acute on chronic renal failure; improving Cr
   6.       Hematuria:
   - discontinuing heparin today; if decreased UOP can [**Doctor Last Name 1277**] drip.
   7.       Falls:
   - PT consult
   ICU Care
   Nutrition:   Dysphagia diet
   Glycemic Control:  Insulin sliding scale
   Lines:
   20 Gauge - [**2129-1-8**] 11:17 AM
   22 Gauge - [**2129-1-8**] 05:00 PM
   Prophylaxis:
   DVT:  heparin drip; can change to prophylaxis
   Stress ulcer:  PPI
   VAP: Not intubated
   Communication:  Family updated by team
   Code status: Full code
   Disposition :  Transfer to floor
   Total time spent:  25 minutes